* source VALIDATION
V_Vbus         N00440 0 {VBus}
R_Rcircuit         N00440 N00447  1 TC=0,0 
R_RgHighside         N00560 N00451  {Rg} TC=0,0 
L_Lcircuit         N00447 N00571  {Lcircuit}  
L_Lghighside         N00451 N00459  {Lg}  
L_LgLowside         N00455 N56313  {Lg}  
R_RgLowside         0 N00455  {Rg} TC=0,0 
V_VgHighside         N00560 N00592  
+PULSE 0 20 0 1ns 1ns 2us 4us
L_Lload         N00592 0  {Lload}  
R_Rparasitic         N04710 N04720  1 TC=0,0 
R_Rg         0 N04912  {Rg} TC=0,0 
L_LeLowside1         N04976 0  {Le}  
L_Lg         N04912 N43438  {Lg}  
L_Lparasitic         N04720 N04726  {Lcircuit}  
V_VDC         N04710 0 {VBus}
D_D5         N04976 N05851 Dbreak 
L_LloadModel         N04726 0  {Lload}  
D_D6         N10780 N10582 Dbreak 
L_Lg1         N10760 N26026  {Lg}  
L_Lelowside2         N10780 0  {Le}  
R_Rg1         0 N10760  {Rg} TC=0,0 
R_Rparasitic1         N10500 N10510  1 TC=0,0 
L_Lparasitic1         N10510 N10516  {Lcircuit}  
L_LloadModel1         N10516 0  {Lload}  
C_CCE1         N10780 N10582  183pF  TC=0,0 
C_CGC1         N26026 N10582  71.76pF  TC=0,0 
C_CGE1         N10780 N26026  3793pF  TC=0,0 
L_LeHighside1         N04726 N05851  {Le}  
L_LeHighside2         N10516 N10582  {Le}  
D_D7         N01013 N00571 Dbreak 
D_D8         N50407 N00592 Dbreak 
L_LeHighside         N01013 N00592  3nH  
L_LeLowside         N50407 0  {Le}  
Z_Z1         N00571 N00459 N01013 IXGH60N60C2     
Z_Z7         N05851 N43438 N04976 IXGH60N60B2     
L_Lcircuit1         N106072 N110519  {Lcircuit}  
L_LeHighside3         N110530 N106294  {Le}  
V_VgHighside1         N106186 N106294  
+PULSE 0 20 0 1ns 1ns 2us 4us
R_RgLowside1         0 N106444  {Rg} TC=0,0 
L_LgLowside1         N106444 N106450  {Lg}  
R_RgHighside1         N106186 N106196  {Rg} TC=0,0 
R_Rcircuit1         N106062 N106072  1 TC=0,0 
V_Vbus1         N106062 0 {VBus}
L_Lghighside1         N106196 N110526  {Lg}  
L_LeLowside3         N110371 0  {Le}  
L_Lload1         N106294 0  {Lload}  
M_M5         N110519 N110526 N110530 N110530 IRFP460
M_M6         N106294 N106450 N110371 N110371 IRFP460
D_D9         N110530 N110519 Dbreak 
D_D10         N110371 N106294 Dbreak 
Z_Z8         N00592 N56313 N50407 IXGH60N60C2     
V_Vbus2         N10500 0 {VBus}
.PARAM  lcircuit=60nh lg=3nh rg=10 rload=16 lload=40uh vbus=400vdc le=3nh
